US07816357B2
Preparation of 4-((7-(4-Chlorophenyl)-2-methyl-3,6-dioxo-8-(pyridin-4-yl)-2,3-dihydro-[1,2,4]triazolo[4,3-b]pyridazin-5(6H)-yl)methyl)benzonitrile
The solution of 7-(4-chlorophenyl)-2-methyl-8-(pyridin-4-yl)-[1,2,4]triazolo[4,3-b]pyridazine-3,6(2H,5H)-dione (10 mg, 0.028 mmol), 4-(bromomethyl)benzonitrile (7 mg, 0.036 mmol), K2CO3(12 mg, 0.084 mmol) in DMF (0.5 ml), was heated at 80° C. for 20 min. After this time, the reaction mixture was cooled to RT and diluted with ethyl acetate. The resulting solution was then washed with water. The organic layer was dried over Na2SO4, filtered and concentrated under reduced pressure. The crude product was purified by reverse phase HPLC to give the title compound, 4-((7-(4-chlorophenyl)-2-methyl-3,6-dioxo-8-(pyridin-4-yl)-2,3-dihydro-[1,2,4]triazolo[4,3-b]pyridazin-5(6H)-yl)methyl)benzonitrile (6.5 mg, 40%) as the mono trifluoro acetate salt as a yellow solid. Rt=2.78, M+H=469; 1H NMR (CD3OD) δ 8.81(2H), 7.71-7.60(6H), 7.32(2H), 7.07(2H), 5.96(2H), 3.57(3H).

reactant | 7-(4-chlorophenyl)-2-methyl-8-(pyridin-4-yl)-[1,2,4]triazolo[4,3-b]pyridazine-3,6(2H,5H)-dione | 0.028 mmol, 10 mg | ClC1=CC=C(C=C1)C1=C(C=2N(NC1=O)C(N(N2)C)=O)C2=CC=NC=C2 | C17H12ClN5O2
reactant | 4-(bromomethyl)benzonitrile | 0.036 mmol, 7 mg | BrCC1=CC=C(C#N)C=C1 | C8H6BrN
reactant | K2CO3 | 0.084 mmol, 12 mg | C(=O)([O-])[O-].[K+].[K+]
solvent | DMF | 0.5 ml | CN(C)C=O | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 4-((7-(4-chlorophenyl)-2-methyl-3,6-dioxo-8-(pyridin-4-yl)-2,3-dihydro-[1,2,4]triazolo[4,3-b]pyridazin-5(6H)-yl)methyl)benzonitrile | 6.5 mg, 40% | ClC1=CC=C(C=C1)C1=C(C=2N(N(C1=O)CC1=CC=C(C#N)C=C1)C(N(N2)C)=O)C2=CC=NC=C2 | C25H17ClN6O2
